US04661636
(d) 4-(1,1-dimethylethyl)-2-dimethylaminomethyleneaminosulfonylphenol
2.98 g (0.01 mol) of 4-(1,1-dimethylethyl)-2-dimethylaminomethyleneaminosulfonylanisole are dissolved in 30 ml of methylene chloride, and 2.75 g (0.011 mol) of boron tribromide are added. The mixture is stirred at room temperature for 45 minutes and then excess boron tribromide is destroyed by cautiously adding methanol. The mixture of solvents is removed in vacuo and the residue is triturated with water. The product results in the form of pale yellowish crystals. Isopropanol is used for recrystallization.

reactant | 4-(1,1-dimethylethyl)-2-dimethylaminomethyleneaminosulfonylanisole | 0.01 mol, 2.98 g | CC(C)(C)C1=CC(=C(C=C1)OC)S(=O)(=O)N=CN(C)C | C14H22N2O3S
reactant | boron tribromide | 0.011 mol, 2.75 g | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-(1,1-dimethylethyl)-2-dimethylaminomethyleneaminosulfonylphenol | CC(C)(C)C1=CC(=C(C=C1)O)S(=O)(=O)N=CN(C)C | C13H20N2O3S
